US05210204
To a suspension of sodium hydride (345 mg, 60% in oil, 8.6 mmol) in dry DMF (10 mL) was added 5,7-dimethyl-2-ethylimidazo[4,5-b]pyridine (1.5 g, 8.6 mmol) under an atmosphere of dry nitrogen. The reaction mixture was stirred at room temperature until the evolution of gas subsided. The reaction mixture was cooled to 0° C. and a solution of methyl 4'-bromomethylbiphenyl-2-carboxylate (2.7 g, 8.84 mmol) in dry DMF (5 mL) was added dropwise. The resulting solution was stirred at room temperature overnight. The reaction mixture was poured into water (250 mL), the pH was adjusted to pH 6 by the addition of 1N HCl, and the product was extracted into ethyl acetate. Flash chromatography (silica, ethyl acetate) gave 4'-[[5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin-3-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid methyl ester (2.05 g, 61%) as an amorphous solid.

reactant | sodium hydride | 8.6 mmol, 345 mg | [H-].[Na+]
reactant | 5,7-dimethyl-2-ethylimidazo[4,5-b]pyridine | 8.6 mmol, 1.5 g | CC1=CC(=C2C(=N1)N=C(N2)CC)C | C10H13N3
reactant | methyl 4'-bromomethylbiphenyl-2-carboxylate | 8.84 mmol, 2.7 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13BrO2
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | 4'-[[5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin-3-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid methyl ester | 2.05 g, 61% | COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC=2C1=NC(=CC2C)C)CC | C25H25N3O2
